US05112966
To a solution of (3S,4S)-4-(1-chloromethylethenyl)-3-(1-(R)-benzyloxycarbonyloxyethyl)-1-di(p-anisyl)methyl-2-azetidinone (2.24 g) in acetone (25 ml) was added sodium iodide (1.2 g), and the resultant mixture was stirred at room temperature for 5 hours and concentrated in vacuo to make a volume of about 10 ml. The concentrated solution was diluted with benzene (50 ml) and diethyl ether (50 ml), washed successively with 5% sodium bicarbonate and water and dried over anhydrous sodium sulfate. Filtration and concentration of the filtrate in vacuo gave (3S,4S)-4-(1-iodomethylethenyl)-3-(1-(R)-benzyloxycarbonyloxyethyl)-1-di-(p-anisyl)methyl-2-azetidinone.

reactant | (3S,4S)-4-(1-chloromethylethenyl)-3-(1-(R)-benzyloxycarbonyloxyethyl)-1-di(p-anisyl)methyl-2-azetidinone | 2.24 g | ClCC(=C)[C@@H]1[C@H](C(N1C(CC1=CC=C(C=C1)OC)CC1=CC=C(C=C1)OC)=O)[C@@H](C)OC(=O)OCC1=CC=CC=C1 | C33H36ClNO6
reactant | sodium iodide | 1.2 g | [I-].[Na+]
solvent | acetone | 25 ml | CC(=O)C | C3H6O
product | (3S,4S)-4-(1-iodomethylethenyl)-3-(1-(R)-benzyloxycarbonyloxyethyl)-1-di-(p-anisyl)methyl-2-azetidinone | ICC(=C)[C@@H]1[C@H](C(N1C(CC1=CC=C(C=C1)OC)CC1=CC=C(C=C1)OC)=O)[C@@H](C)OC(=O)OCC1=CC=CC=C1 | C33H36INO6
